US07109150B2
b) 4-(4′-chlorophenyl)-3-nitropyridine
In a sulfonation flask 6.9 g (44 mmol) of 4-chloro-3-nitropyridine, 6.5 g (42 mmol) 4-chloro-phenylboronic acid, 6.0 g (44 mmol) potassium carbonate (saturated solution in water) and 1.0 g (0.9 mmol) tetrakis(triphenylphosphine)palladium are dissolved in 100 ml of dimethoxyethane (DME). The mixture is heated under reflux conditions under a constant nitrogen stream for 5 hours. Then the solvent is removed in a water jet vacuum and the residue taken up in ethylacetate. The organic phase is washed twice with water and after drying of the organic phase with sodium sulfate, the solvent is removed in a water jet vacuum. The resulting crude product is purified by column chromatography over silica gel (eluant: hexane/ethylacetate 1:1). Yield: 8.9 g 4-(4′-chlorophenyl)-3-nitropyridine in the form of brownish crystals; m.p. 74–76° C.

reactant | 4-chloro-3-nitropyridine | 44 mmol, 6.9 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-chloro-phenylboronic acid | 42 mmol, 6.5 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 44 mmol, 6.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.9 mmol, 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4′-chlorophenyl)-3-nitropyridine | ClC1=CC=C(C=C1)C1=C(C=NC=C1)[N+](=O)[O-] | C11H7ClN2O2
